US07838499B2
Preparation of 4-bromo-2-(4-(bromomethyl)benzyl)-1-chlorobenzene (Intermediate AI)
To a stirred solution of Et3SiH (17 mL) and (5-bromo-2-chlorophenyl)(4-(bromomethyl)phenyl)methanone (intermediate AH) (20.75 g, 54 mmol) in TFA (100 mL) at 30° C. was added CF3SO3H (0.05 mL). Within a few minutes the temperature of the solution increased causing it to reflux violently. After 3 h, the volatiles were removed under reduced pressure. The residue was poured into brine and extracted 3× with ethyl acetate. The combined organic layers were washed 3× with H2O, 2× with aqueous Na2SO4 and 2× with brine, and dried over Na2SO4. The solvent was evaporated under reduced pressure, and the product was purified by column chromatography to obtain pure intermediate AI (15.5 g).

reactant | Et3SiH | 17 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | (5-bromo-2-chlorophenyl)(4-(bromomethyl)phenyl)methanone | 54 mmol, 20.75 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)CBr)Cl | C14H9Br2ClO
reactant | CF3SO3H | 0.05 mL | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-bromo-2-(4-(bromomethyl)benzyl)-1-chlorobenzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CBr | C14H11Br2Cl
